US07897607B2
5-(2,4-dimethylphenyl)-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile
5-Choro-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile (0.015 g, 0.05 mmol), 2,4-dimethylbenzeneboronic acid (0.012 g, 0.079 mmol), and PdCl2(PPh3)2 (0.010 g, 0.015 mmol) were suspended in toluene (1 mL). K3PO4 (0.074 mL, 0.15 mmol, 2M in water) was added last. The reaction was stirred at 90° C. with stirring overnight. The mixture was cooled, filtered through GF/F paper and concentrated. Flash chromatography (40% Ethyl acetate/hexanes) gave the desired product (0.009 g, 50%).

reactant | 5-Choro-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile | 0.05 mmol, 0.015 g | ClC1=C2C(C(=CN(C2=CC=C1)C(CCC)CCC)C#N)=O | C17H19ClN2O
reactant | 2,4-dimethylbenzeneboronic acid | 0.079 mmol, 0.012 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | K3PO4 | 0.15 mmol, 2M, 0.074 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 0.015 mmol, 0.010 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(2,4-dimethylphenyl)-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile | 0.009 g, 50% | CC1=C(C=CC(=C1)C)C1=C2C(C(=CN(C2=CC=C1)C(CCC)CCC)C#N)=O | C25H28N2O
